US06083988
A carboxaldehdye group is converted readily to, for example, a N-tert-butyl nitrone group, by the following method: To a 0.2M solution of the aldehyde obtained by Procedure B in dry pyridine under argon at rt is added solid N-tert-butylhydroxylamine hydrochloride (1.5-2.0 eq). The mixture is heated with stirring to 95° C. for one hour and then allowed to cool to rt. The pyridine is removed on the rotary evaporator, and the residue is dissolved in CHCl3. The CHCl3 layer is washed with water and dried over MgSO4. Evaporation of the CHCl3 followed by silica gel chromatography of the residue (CHCl3 :MeOH) provides the solid green azulenyl nitrone in 96% yield.

reactant | N-tert-butylhydroxylamine hydrochloride | 1.5-2.0 eq | Cl.C(C)(C)(C)NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | azulenyl nitrone | 96% yield | C1(=CC=C2C=CC=CC=C12)C=[NH+][O-] | C11H9NO
